US05780482
A solution of 4-aminophenyl-β-D-galactopyranoside (2.08 g) in IMS (50 ml) was added to a solution of 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine (1.7 g) in IMS (30 ml). The mixture was boiled under reflux for 18 hours. The mixture was cooled and filtered to give 4-(6-ethoxy-7-methyl-1,8-naphthyridin-4-ylamino)phenyl β-D-galactopyranoside hydrochloride, m.p. 223°-225° C. Active (1/1) at 30 mg/kg.

reactant | 4-aminophenyl-β-D-galactopyranoside | 2.08 g | C1=CC(=CC=C1N)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O)O)O | C12H17NO6
reactant | 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine | 1.7 g | ClC1=C2C=C(C(=NC2=NC=C1)C)OCC | C11H11ClN2O
product | 4-(6-ethoxy-7-methyl-1,8-naphthyridin-4-ylamino)phenyl β-D-galactopyranoside hydrochloride | Cl.O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)C1=CC=C(C=C1)NC1=CC=NC2=NC(=C(C=C12)OCC)C | InChI=1S/C23H27N3O7.ClH/c1-3-31-17-10-15-16(8-9-24-22(15)25-12(17)2)26-13-4-6-14(7-5-13)32-23-21(30)20(29)19(28)18(11-27)33-23;/h4-10,18-21,23,27-30H,3,11H2,1-2H3,(H,24,25,26);1H/t18-,19+,20+,21-,23-;/m1./s1
